US05760032
trans-Cinnamic acid (1.48 g), 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.42 g) and triethylamine (5.6 ml) were dissolved in dimethylformamide (50 ml). 1-Benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate (Bop reagent, 4.42 g) was added, and the mixture was stirred for one day. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated to give 5.05 g of crude crystals. The crystals were recrystallized from ethyl acetate to give 3.25 g of trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-phenylacrylamide.

reactant | trans-Cinnamic acid | 1.48 g | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1-Benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate | 4.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-phenylacrylamide | 3.25 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(\C=C\C2=CC=CC=C2)=O)C=CC=C1 | C26H23ClN4O2S
